US05498630
A mixture of N-ethyl-N-methyl 2-(N-tert-butylamino)benzamide (1.89 g, 8.1 mmol), potassium carbonate (2.2 g, 15.9 mmol), and methyl iodide (2.3 g, 16.2 mmol) in DMF (40 mL) was heated overnight at 40° C., then was partitioned between EtOAc and water. The EtOAc was dried (MgSO4), concentrated, and purified by HPLC with 1:4 ethyl acetate/cyclohexane to afford 1.923 g of N-ethyl-N-methyl 2-(N-methyl-N-tert-butylamino)benzamide as a yellow oil, a 96% yield.

reactant | N-ethyl-N-methyl 2-(N-tert-butylamino)benzamide | 8.1 mmol, 1.89 g | C(C)N(C(C1=C(C=CC=C1)NC(C)(C)C)=O)C | C14H22N2O
reactant | potassium carbonate | 15.9 mmol, 2.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 16.2 mmol, 2.3 g | CI | CH3I
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | N-ethyl-N-methyl 2-(N-methyl-N-tert-butylamino)benzamide | 1.923 g, 96% yield | C(C)N(C(C1=C(C=CC=C1)N(C(C)(C)C)C)=O)C | C15H24N2O
